US07897767B2
A mixture of N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide (1.9 g, 4.2 mmol), triphenylphosphine (2.2 g, 8.4 mmol), and 1,2-dichlorobenzene (40 mL) was heated at 125° C. for 2 days. The reaction was allowed to cool to room temperature and was concentrated under reduced pressure. The residue was dissolved in methanol (20 μL) and 1 M aqueous hydrochloric acid (20 mL) and heated at 40° C. for 6 hours. The reaction was allowed to stand at room temperature overnight and a white precipitate formed that was removed by filtration. The filtrate was concentrated under reduced pressure and the residue was partitioned between 1 M aqueous hydrochloric acid (20 mL) and chloroform (10 mL). The aqueous layer was extracted with chloroform (3×10 mL). The organic layers were combined, washed with saturated aqueous sodium carbonate, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The solid was purified by chromatography using a HORIZON HPFC system (silica gel, gradient elution with 10-35% CMA in chloroform). The appropriate fractions were combined and concentrated under reduced pressure. The solid was triturated with ethyl acetate and was isolated by filtration, washed with ethyl acetate, and dried under vacuum at 50° C. overnight to provide 0.85 g of N-{4-[4-amino-6,7-dimethyl-2-({[(1-methylethylidene)amino]oxy}methyl)-1H-imidazo[4,5-c]pyridin-1-yl]butyl}benzamide as a white powder, mp 206.0-208.0° C.

reactant | N-{4-[5,6-dimethyl-8-({[(1-methylethylidene)amino]oxy}methyl)-7H-imidazo[4,5-c]tetraazolo[1,5-a]pyridin-7-yl]butyl}benzamide | 4.2 mmol, 1.9 g | CC1=C(C2=C(C=3N1N=NN3)N=C(N2CCCCNC(C2=CC=CC=C2)=O)CON=C(C)C)C | C23H28N8O2
reactant | triphenylphosphine | 8.4 mmol, 2.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 1,2-dichlorobenzene | 40 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | N-{4-[4-amino-6,7-dimethyl-2-({[(1-methylethylidene)amino]oxy}methyl)-1H-imidazo[4,5-c]pyridin-1-yl]butyl}benzamide | 0.85 g | NC1=NC(=C(C2=C1N=C(N2CCCCNC(C2=CC=CC=C2)=O)CON=C(C)C)C)C | C23H30N6O2
